US04725610
Sodium borohydride (0.654 mg) was added to a suspension of 4-[2-(5-methyl-2-phenyl-4-oxazolyl)-2-oxoethoxy]benzonitrile (5.5 g) in methanol (100 ml)-N,N-dimethylformamide (50 ml), followed by stirring at room temperature for 1 hour. The reaction solution was poured into water and the crystals which separated out were collected by filtration to give 4-[2-hydroxy-2-(5-methyl-phenyl-4-oxazolyl)ethoxy]benzonitrile (5.1 g, 92.7%). Recrystallization from acetone afforded colorless neddles, m.p. 176°-177° C.

reactant | Sodium borohydride | 0.654 mg | [BH4-].[Na+]
reactant | 4-[2-(5-methyl-2-phenyl-4-oxazolyl)-2-oxoethoxy]benzonitrile | 5.5 g | CC1=C(N=C(O1)C1=CC=CC=C1)C(COC1=CC=C(C#N)C=C1)=O | C19H14N2O3
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | water | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | 4-[2-hydroxy-2-(5-methyl-phenyl-4-oxazolyl)ethoxy]benzonitrile | 5.1 g, 92.7% | OC(COC1=CC=C(C#N)C=C1)C=1N=C(OC1)C1=CC=CC(=C1)C | C19H16N2O3
